US08859544B2
(1-Methoxy-2-methylindolizin-3-yl)(4-nitrophenyl)methanone
1.8 ml (12.92 mmol) of triethylamine are added, at ambient temperature under an inert atmosphere, to 1.7 g (10.77 mmol) of 1-methoxy-2-methylindolizine in 15 ml of dichloroethane, followed, dropwise, by 2.2 g (11.85 mmol) of 4-nitrobenzoic acid chloride. The reaction medium is stirred for 30 minutes at ambient temperature, hydrolysed with a saturated aqueous solution of sodium hydrogen carbonate and then extracted with dichloromethane. The organic phase is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate, and then concentrated under reduced pressure. The residue obtained is washed with diethyl ether. 3 g of an orange solid are obtained.

reactant | triethylamine | 12.92 mmol, 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methoxy-2-methylindolizine | 10.77 mmol, 1.7 g | COC=1C(=CN2C=CC=CC12)C | C10H11NO
reactant | 4-nitrobenzoic acid chloride | 11.85 mmol, 2.2 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
product | (1-Methoxy-2-methylindolizin-3-yl)(4-nitrophenyl)methanone | 3 g | COC=1C(=C(N2C=CC=CC12)C(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H14N2O4
